US08895313B2
6-Fluoro-N-[4-(6-methylimidazo[1,2-a]pyridin-2-yl)phenyl]pyridine-3-carboxamide
A stirred suspension of 6-fluoronicotinic acid (80 mg, 0.414 mmol) in thionyl chloride (2 ml) was heated under reflux for 4 h. The excess reagent was then removed under reduced pressure to give a crude solid. The amide was prepared as described in the Amide Coupling section using the crude solid and 4-(6-methylimidazo[1,2-a]pyridin-2-yl)aniline (92 mg, 0.414 mmol) in dry THF (13 ml) and diisopropylethylamine (106 μl, 0.608 mmol) to give the title compound (86 mg, 60%) as a colourless solid after work-up and flash chromatography (EtOAc).

reactant | 6-fluoronicotinic acid | 0.414 mmol, 80 mg | FC1=NC=C(C(=O)O)C=C1 | C6H4FNO2
reactant | 4-(6-methylimidazo[1,2-a]pyridin-2-yl)aniline | 0.414 mmol, 92 mg | CC=1C=CC=2N(C1)C=C(N2)C2=CC=C(N)C=C2 | C14H13N3
reactant | diisopropylethylamine | 0.608 mmol, 106 μl | C(C)(C)N(CC)C(C)C | C8H19N
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | thionyl chloride | 2 ml | S(=O)(Cl)Cl | Cl2OS
solvent | THF | 13 ml | C1CCOC1 | C4H8O
product | 6-Fluoro-N-[4-(6-methylimidazo[1,2-a]pyridin-2-yl)phenyl]pyridine-3-carboxamide | 86 mg, 60% | FC1=CC=C(C=N1)C(=O)NC1=CC=C(C=C1)C=1N=C2N(C=C(C=C2)C)C1 | C20H15FN4O
